US07045652B2
To a solution of 3-ethyl-5-methoxy-phenol (103.8 g, 682 mmol) in tetrahydrofuran (490 mL) was added a mixture of potassium hydroxide (75.8 g, 887 mmol), potassium carbonate (235.7 g, 1.71 mol, powder form), and 1-chloro-2-dimethylamino-ethane hydrochloride (98.2 g, 682 mmol) followed by addition of toluene (1.10 L). The mixture was stirred at 75° C. for 28 hours. The reaction mixture was poured into ice-cold water (1.0 L). The organic layer was washed with water (1.0 L) and then twice with 1L of 1 M HCl. Saturated aqueous solution of sodium bicarbonate (1.2 L) was added to the combined aqueous extracts, the pH was adjusted to 11 with 30% sodium hydroxide solution (220 mL). The product was extracted from the aqueous phase with two 0.8 L portions of tert-butylmethylether. The combined organic extracts were concentrated to give 144.2 g (91% yield) of [2-(2-ethyl-5-methoxy-phenoxy)-ethyl]-dimethyl-amine as a yellow oil.

reactant | 3-ethyl-5-methoxy-phenol | 682 mmol, 103.8 g | C(C)C=1C=C(C=C(C1)OC)O | C9H12O2
reactant | potassium hydroxide | 887 mmol, 75.8 g | [OH-].[K+]
reactant | potassium carbonate | 1.71 mol, 235.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-dimethylamino-ethane hydrochloride | 682 mmol, 98.2 g | Cl.ClCCN(C)C
solvent | tetrahydrofuran | 490 mL | O1CCCC1 | C4H8O
solvent | toluene | 1.10 L | C1(=CC=CC=C1)C | C7H8
product | [2-(2-ethyl-5-methoxy-phenoxy)-ethyl]-dimethyl-amine | 144.2 g, 91% yield | C(C)C1=C(OCCN(C)C)C=C(C=C1)OC | C13H21NO2
